US08609647B2
(12) Optically-Active Compound of 4-(3,3-difluoro-1,6-diaza-spiro[3.5]non-6-yl)-7H-pyrrolo[2,3-d]pyrimidine
To a solution of an optically-active compound of 3,3-difluoro-6-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1,6-diaza-spiro[3.5]nonane-1-carboxylic acid benzyl ester (12.0 g) in methanol/tetrahydrofuran (120 ml/120 ml) was added 10% palladium carbon (2.4 g), and the mixture was hydrogenated at room temperature under 4 atmospheres for 21 hours. The mixture was filtered through Celite, and the filtrate was concentrated under reduced pressure. The resulting residue was slurry-purified by a mixed solvent of n-hexane/ethyl acetate (2/1) to give the titled compound (6.6 g).

reactant | 3,3-difluoro-6-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1,6-diaza-spiro[3.5]nonane-1-carboxylic acid benzyl ester | 12.0 g | C(C1=CC=CC=C1)OC(=O)N1CC(C12CN(CCC2)C=2C1=C(N=CN2)NC=C1)(F)F | C21H21F2N5O2
solvent | methanol tetrahydrofuran | 120 ml | CO.O1CCCC1
catalyst | palladium carbon | 2.4 g | [C].[Pd]
product | 4-(3,3-difluoro-1,6-diaza-spiro[3.5]non-6-yl)-7H-pyrrolo[2,3-d]pyrimidine | 6.6 g | FC1(CNC12CN(CCC2)C=2C1=C(N=CN2)NC=C1)F | C13H15F2N5
